US08389507B2
b) (4-Chloro-3-methoxy-phenyl)-isopropyl-(S)-1-pyrrolidin-2-ylmethyl-amine
To a solution of (S)-2-[(4-chloro-3-methoxy-phenylamino)-methyl]-pyrrolidine-1-carboxylic acid tert-butyl ester (0.68 g, 2.0 mmol) were added 2-methoxypropene (0.216 g, 3.0 mmol), trifluoracetic acid (0.228 g, 2.0 mmol) and sodium triacetoxyborohydride (0.64 g, 3.0 mmol). The mixture was stirred overnight at 60° C. Saturated sodium bicarbonate solution (10 ml) was added and the mixture was extracted with ethyl acetate (3×30 ml). The combined organic layers were dried with magnesium sulphate, filtered and concentrated in vacuo. The residue was dissolved in dichloromethane (3 ml) and trifluoroacetic acid (3 ml) was added. Solvent and access trifluoroacetic acid was evaporated, diisopropylethylamine (1 ml) was added to liberate the free base and the mixture was purified by flash chromatography (column: Isolute® Flash-NH2 from Separtis; eluent: ethyl acetate/heptane 1:1) to yield a light yellow oil, (0.185 g, 33%); MS (ISP): 283.5, 285.2 ((M+H)+.).

reactant | (S)-2-[(4-chloro-3-methoxy-phenylamino)-methyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 2.0 mmol, 0.68 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)CNC1=CC(=C(C=C1)Cl)OC | C17H25ClN2O3
reactant | 2-methoxypropene | 3.0 mmol, 0.216 g | COC(=C)C | C4H8O
reactant | trifluoracetic acid | 2.0 mmol, 0.228 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium triacetoxyborohydride | 3.0 mmol, 0.64 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | sodium bicarbonate | 10 ml | C([O-])(O)=O.[Na+]
product | (4-Chloro-3-methoxy-phenyl)-isopropyl-(S)-1-pyrrolidin-2-ylmethyl-amine | ClC1=C(C=C(C=C1)N(C[C@H]1NCCC1)C(C)C)OC | C15H23ClN2O
